US06211234B1
A solution of dry sodium (RS)-4-hydroxy-4-(2-methylphenyl)butanoate (0.18 g) in dry tetrahydrofuran (50 mL) is treated with sodium hydride and stirred at 60° C. for 15 minutes. tert-Butyl 3-[(4-cyano-3-fluoro-phenoxymethyl)phenyl]propionate (0.2 g) is added and the mixture heated at reflux for 4 hours. After standing at room temperature for 18 hours the reaction mixture is filtered. Ethyl acetate (50 mL) and 1 N hydrochloric acid (50 mL) are added to the filtrate and the organic phase is separated. The organic phase is washed with water (10 mL), dried over magnesium sulphate, evaporated and the residue purified by flash chromatography on silica eluting with a mixture of dichloromethane and methanol (95:5 v/v). Fractions homogeneous in the required product are combined and evaporated. The residue is dissolved in ether and the solution washed with 1% sodium bicarbonate solution, 0.5 N hydrochloric acid, water, dried over magnesium sulphate and evaporated. The resulting colourless gum is crystallised from a mixture of cyclohexane and ethyl acetate to give (RS)-4-{5-[3-(2-carboxyethyl)benzyloxy]-2-cyano-phenoxy}-4-(2-methylphenyl)butanoic acid (0.12 g) m.p. 136-137° C. [Elemental analysis:- C,71.4; H,6.23; N,2.91%. Calculated:- C,71.0; H,5.75; N,2.96%].

reactant | sodium (RS)-4-hydroxy-4-(2-methylphenyl)butanoate | 0.18 g | OC(CCC(=O)[O-])C1=C(C=CC=C1)C.[Na+]
reactant | sodium hydride | [H-].[Na+]
reactant | tert-Butyl 3-[(4-cyano-3-fluoro-phenoxymethyl)phenyl]propionate | 0.2 g | C(#N)C1=C(C=C(OCC2=C(C=CC=C2)CCC(=O)OC(C)(C)C)C=C1)F | C21H22FNO3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (RS)-4-{5-[3-(2-carboxyethyl)benzyloxy]-2-cyano-phenoxy}-4-(2-methylphenyl)butanoic acid | 0.12 g | C(=O)(O)CCC=1C=C(COC=2C=CC(=C(OC(CCC(=O)O)C3=C(C=CC=C3)C)C2)C#N)C=CC1 | C28H27NO6
